US07071182B2
6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole
A mixture of 6-nitroindazole (2.00 g, 12.3 mmol) and potassium carbonate (5.10 g 37.0 mmol) in DMF (40 mL) was stirred for 30 minutes, after which 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (3.20 g 18.9 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature, filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.61 (m, 4H), 2.47 (m, 4H), 2.90 (t, 2H, J=6.45), 4.68 (t, 2H, J=6.44), 7.94 (m, 1H), 8.00 (m, 1H), 8.31 (s, 1H), 8.77 (s, 1H); MS (DCI/NH3) m/z 261 [M+H]+.

reactant | 6-nitroindazole | 12.3 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | potassium carbonate | 37.0 mmol, 5.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 18.9 mmol, 3.20 g | Cl.ClCCN1CCCC1
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 6-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | [N+](=O)([O-])C1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C13H16N4O2
